US07851473B2
(3) 2,2,2-Trichloroethyl{4-[acetyl(methyl)amino]phenyl}carbamate
To a solution of N-(4-aminophenyl)-N-methylacetamide (1.78 g, 10.8 mmol) and pyridine (2.63 ml, 32.5 mmol) in tetrahydrofuran (60 ml) was added 2,2,2-trichloroethyl chloroformate (2.23 ml, 16.2 mmol) with ice-cooling, the mixture was stirred for 2 hours with ice-cooling, the reaction mixture was poured into ice-water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. To the residue was added hexane and the desired product (3.17 g, 86.4%) as a solid was collected by filtration.

reactant | N-(4-aminophenyl)-N-methylacetamide | 10.8 mmol, 1.78 g | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
reactant | pyridine | 32.5 mmol, 2.63 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 16.2 mmol, 2.23 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl{4-[acetyl(methyl)amino]phenyl}carbamate | ClC(COC(NC1=CC=C(C=C1)N(C)C(C)=O)=O)(Cl)Cl | C12H13Cl3N2O3
